US09029405B2
Step 1: 2-Hydroxy-1-(4-cyanophenyl)ethanone
To a solution of 2-Bromo-1-(4-cyanophenyl)ethanone (15 g, 0.067 mol) in methanol (200 ml) was added sodium formate (13.6 g, 0.201 mol) at RT. The reaction mixture was refluxed for 15 h and filtered. The filtrate was concentrated under reduced pressure. The residue was dissolved with ethyl acetate, washed with water and brine solution, dried over Na2SO4 and evaporated. The crude material was purified by column chromatography using petroleum ether and ethyl acetate (60:40) as an eluent to afford (5.4 g, 50%) of title compound as an off white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.06-8.04 (dd, J=1.9, 6.7 Hz, 2H), 8.00-7.98 (dd, J=1.9, 6.7 Hz, 2H), 5.27-5.24 (t, J=5.9 Hz, 1H), 4.82-4.80 (d, J=5.9 Hz, 2H).

reactant | 2-Bromo-1-(4-cyanophenyl)ethanone | 0.067 mol, 15 g | BrCC(=O)C1=CC=C(C=C1)C#N | C9H6BrNO
reactant | sodium formate | 0.201 mol, 13.6 g | C(=O)[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-Hydroxy-1-(4-cyanophenyl)ethanone | 5.4 g, 50% | OCC(=O)C1=CC=C(C=C1)C#N | C9H7NO2
